US07002037B2
The crystals of (1,2-diethoxy-2-oxoethyl)(triphenyl)phosphonium chloride in the reactor were dissolved in CH2Cl2 (290 L) followed by the addition of 4-benzyloxybenzaldehyde (44.2 kg, 208 mol, yield is based on this chemical). To this solution tetramethylguanidine (25.4 kg, 220 mol) was added in 1 hour. The solution was then stirred for 20 hours at 20° C. CH2Cl2 (200 L) was distilled off and at an Ti of 30° C. replaced TBME (280 l). The crystals of TPPO formed were filtered off at 20° C. and the mother-liquor was concentrated until a new precipitate was formed. The TPPO was filtered off again and the mother-liquor was concentrated until no more solvents distilled. 2-Propanol (260 L) and seeding crystals (ethyl 3-[4-(benzyloxy)phenyl]-2-ethoxy-2-propenoate) (50 g) were added before cooling to 0° C. The resulting suspension was filtered and the isolated material dried at 40° C./160 mbar. The overall yield was 44.5 kg, 65% (GLC: 99% area).

reactant | (1,2-diethoxy-2-oxoethyl)(triphenyl)phosphonium chloride | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | tetramethylguanidine | 220 mol, 25.4 kg | CN(C(N(C)C)=N)C | C5H13N3
solvent | CH2Cl2 | 290 L | C(Cl)Cl | CH2Cl2
product | TPPO | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)C=3C=CC=CC3 | C18H15OP
